### PR TITLE
[Merged by Bors] - feat: extensible `push` and `pull` tactics

### LINKED ISSUE #21841: `push` tactic that generalizes `push_neg` from `neg` to any def.

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR defines the `push` and `pull` tactics, and makes `push_neg` a macro for `push Not`. The tactics are also available in `conv` mode.

For tagging, there is only the `@[push]` attribute, which adds the reverse rewrite for the `pull` tactic when relevant. In the future, we may also need a separate `@[pull X]` attribute for pulling `X`.

Thanks to this change, we will be able to make `push_neg` into a more powerful tactic by tagging more lemmas. It also means that about 60 files now don't need to import `LinearOrder`/`PartialOrder`. This will be especially useful when we get the `@[to_dual]` attribute.

This work originally started in #21769. There is now the follow up PR #29000 which adds `push` tags and tests for them.

The `@[push]` attribute is defined in `Mathlib.Tactic.Push.Attr` and the main implementation of `push` and `pull` is in `Mathlib.Tactic.Push`.

Some proofs need to be fixed because the new simp-based `push_neg` can see through more reducible definitions.

Zulip conversation: [#mathlib4 > I made an extensible &#96;push&#96; tactic generalizing &#96;push_neg&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/I.20made.20an.20extensible.20.60push.60.20tactic.20generalizing.20.60push_neg.60)

closes #21841

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
What should I do with the copyright docstring at the top of these files? I added myself as the main author, set the year to 2025, and left the names which were there in the original file.

**Comment by grunweg** [comment]
> What should I do with the copyright docstring at the top of these files? I added myself as the main author, set the year to 2025, and left the names which were there in the original file.

Adding yourself as an author and leaving the original authors sounds good. Please leave the year as it was.

**Comment by JovanGerb** [comment]
!bench

File: Mathlib/Tactic/Push.lean [hunk 1]
```diff
@@ -1,237 +1,301 @@
...
-has nothing to do with `push_neg`).
+/-- The type for a constant to be pushed by `push`. -/
+inductive Head where
+| name (const : Name)
+| lambda
+| Forall
 
-Note that names are conserved by this tactic, contrary to what would happen with `simp`
-using the relevant lemmas.
+/-- Retreave the `Head` of an expression. -/
```
Comment (grunweg) [inline Mathlib/Tactic/Push.lean:98]:
```suggestion
/-- Retrieve the `Head` of an expression. -/

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Order/Defs/LinearOrder.lean [hunk 2]
```diff
@@ -115,8 +116,8 @@ lemma ne_iff_lt_or_gt : a ≠ b ↔ a < b ∨ b < a := ⟨lt_or_gt_of_ne, (Or.el
 
 lemma lt_iff_not_ge : a < b ↔ ¬b ≤ a := ⟨not_le_of_gt, lt_of_not_ge⟩
 
-@[simp] lemma not_lt : ¬a < b ↔ b ≤ a := ⟨le_of_not_gt, not_lt_of_ge⟩
-@[simp] lemma not_le : ¬a ≤ b ↔ b < a := lt_iff_not_ge.symm
+@[simp, push low] lemma not_lt : ¬a < b ↔ b ≤ a := ⟨le_of_not_gt, not_lt_of_ge⟩
+@[simp, push low] lemma not_le : ¬a ≤ b ↔ b < a := lt_iff_not_ge.symm
```
Comment (j-loreaux) [inline Mathlib/Order/Defs/LinearOrder.lean]: Can you please document why these are marked `low` priority?

File: Mathlib/Tactic/Push/Attr.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+For example:
+```lean
+@[push] theorem not_not (p : Prop) : ¬¬p ↔ p
+
+@[push] theorem not_imp (p q : Prop) : ¬(p → q) ↔ p ∧ ¬q
+
+@[push] theorem not_iff (p q : Prop) : ¬(p ↔ q) ↔ (p ∧ ¬q) ∨ (¬p ∧ q)
+```
+-/
+syntax (name := pushAttr) "push" ("← " <|> "<- ")? (ppSpace prio)? : attr
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push/Attr.lean]: I'm confused about spacing here. It looks like here you want a space *after* `←`, but in the applications of the attribute above, you have a space *before*. Is the space after just to avoid `push ←low` being syntactically valid?

File: Mathlib/Tactic/Push.lean [hunk 4]
```diff
@@ -1,237 +1,301 @@
...
-namespace Mathlib.Tactic.PushNeg
+namespace Mathlib.Tactic.Push
 
-open Lean Meta Elab.Tactic Parser.Tactic
+universe u
+variable (p q : Prop) {α : Sort u} (s : α → Prop)
 
-variable (p q : Prop) {α : Sort*} {β : Type*} (s : α → Prop)
+-- Note: the lemma `Classical.not_imp` is attempted before `not_forall_eq`
+attribute [push] not_not not_or Classical.not_imp
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: I guess this is because it's marked `push`, whereas `not_forall_eq` is not, but instead has special handling from `pushNegForall` inside `pushNegBuiltin`. If I'm correct here, please add a short explanation that `not_forall_eq` has special handling.

File: Mathlib/Tactic/Push.lean [hunk 5]
```diff
@@ -1,237 +1,301 @@
...
-theorem not_le_eq (a b : β) : (¬ (a ≤ b)) = (b < a) := propext not_le
-theorem not_lt_eq (a b : β) : (¬ (a < b)) = (b ≤ a) := propext not_lt
-theorem not_ge_eq (a b : β) : (¬ (a ≥ b)) = (a < b) := propext not_le
-theorem not_gt_eq (a b : β) : (¬ (a > b)) = (a ≤ b) := propext not_lt
+@[push] theorem not_iff : ¬(p ↔ q) ↔ (p ∧ ¬q) ∨ (¬p ∧ q) :=
+  _root_.not_iff.trans <| iff_iff_and_or_not_and_not.trans <| by rw [not_not, or_comm]
 
-end LinearOrder
+/-
+TODO:
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: Why `TODO`? I don't follow.

File: Mathlib/Tactic/Push.lean [hunk 6]
```diff
@@ -1,237 +1,301 @@
...
-  let some ex := e_whnf.not? | return Simp.Step.continue
-  let ex := (← instantiateMVars ex).cleanupAnnotations
-  match ex.getAppFnArgs with
-  | (``Not, #[e]) =>
-      return mkSimpStep e (← mkAppM ``not_not_eq #[e])
+open Lean Meta Elab.Tactic Parser.Tactic
+
+/--
+`pushNegBuiltin` is a simproc to do some rewriting that can't be done by just tagging lemmas.
+- `¬(p ∧ q)` turns into `p → ¬q` or `¬a ∨ ¬q`, depending on the option `push_neg.use_distrib`.
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: So, for this reason, neither `not_and` nor `not_and_or` is marked `push`, correct, as they are special-cased below?

File: Mathlib/Tactic/Push.lean [hunk 7]
```diff
@@ -1,237 +1,301 @@
...
+    return mkSimpStep (.forallE n typ (mkNot bo) bi) (← mkAppM ``not_exists_eq #[.lam n typ bo bi])
+  | _ =>
+    pushNegForall e
+where
+  mkSimpStep (e : Expr) (pf : Expr) : Simp.Step :=
+    Simp.Step.continue (some { expr := e, proof? := some pf })
+  /--
+  Pushes a negation into a forall binder.
+  This function is separate because this speeds up compilation.
+  -/
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: Can you explain why? Is it because `Classical.not_imp` gets applied instead sometimes?

File: Mathlib/Tactic/Push.lean [hunk 8]
```diff
@@ -1,237 +1,301 @@
...
+  let e_whnf ← whnfR e
+  unless head.isHeadOf e_whnf do
+    return Simp.Step.continue
+  let thms ← pushExt.getTheorems
+  if let some r ← Simp.rewrite? e thms.pre {} (tag := "push") (rflOnly := false) then
+    -- We return `.visit r` instead of `.continue r`, because in the case of a triple negation,
+    -- after rewriting `¬¬¬p` into `¬p`, we want to rewrite again at `¬p`.
+    return Simp.Step.visit r
+  if let some ex := e_whnf.not? then
+    pushNegBuiltin ex
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: I wonder whether we expect `Not` to be the only head symbol that requires special casing. This framework seems to assume that this will be the case for all things we can `push`.

File: Mathlib/Tactic/Push.lean [hunk 9]
```diff
@@ -1,237 +1,301 @@
...
-
-`#push_neg` understands local variables, so you can use them to introduce parameters.
+A simproc variant of `push_neg` that can be used as `simp [↓pushNeg]`.
+Note that you should write `↓pushNeg` instead of `pushNeg`, so that negations are pushed greedily.
 -/
-macro (name := pushNeg) tk:"#push_neg " e:term : command => `(command| #conv%$tk push_neg => $e)
+simproc_decl _root_.pushNeg (Not _) := pushStep (.name ``Not)
+
+/-- The `simp` configuration used in `push`. -/
+def PushSimpConfig : Simp.Config where
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]:
```suggestion
def pushSimpConfig : Simp.Config where
```

File: Mathlib/Tactic/Push.lean [hunk 10]
```diff
@@ -1,237 +1,301 @@
...
+      (simpTheorems := #[])
+      (congrTheorems := ← getSimpCongrTheorems)
+  let methods := match disch? with
+    | none => { pre := pushStep head }
+    | some disch => { pre := pushStep head, discharge? := disch, wellBehavedDischarge := false }
+  (·.1) <$> Simp.main tgt ctx (methods := methods)
 
+/-- Execute main loop of `push` at the main goal. -/
+def pushNegTarget (head : Head) (discharge? : Option Simp.Discharge) :
+    TacticM Unit := do
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: Right? Or is this not necessary because it's already wrapped in the `withMainContext` from `elabPush`?
```suggestion
    TacticM Unit := withMainContext do
```

File: Mathlib/Tactic/Push.lean [hunk 11]
```diff
@@ -1,237 +1,301 @@
...
+  let tgt ← instantiateMVars (← mvarId.getType)
+  let mvarIdNew ← applySimpResultToTarget mvarId tgt (← pushCore head tgt discharge?)
+  if mvarIdNew == mvarId then throwError "push made no progress"
+  replaceMainGoal [mvarIdNew]
 
-/-- Execute main loop of `push_neg` at a local hypothesis. -/
-def pushNegLocalDecl (fvarId : FVarId) : TacticM Unit := withMainContext do
+/-- Execute main loop of `push` at a local hypothesis. -/
+def pushNegLocalDecl (head : Head) (discharge? : Option Simp.Discharge) (fvarId : FVarId) :
+    TacticM Unit := do
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: idem
```suggestion
    TacticM Unit := withMainContext do
```

File: Mathlib/Tactic/Push.lean [hunk 12]
```diff
@@ -1,237 +1,301 @@
...
+See also `push_neg`, which is a macro for `push Not`.
+
+In addition to constants, `push` can be used to push `∀` and `fun` binders:
+- `push ∀ _, _` can turn `∀ a, p a ∧ q a` into `(∀ a, p a) ∧ (∀ a, q a)`.
+- `push fun _ ↦ _` can turn `fun x => f x + g x` into `(fun x => f x) + (fun x => g x)`
+(or into `f + g`).
+
+One can use this tactic at the goal using `push_neg`,
+at every hypothesis and the goal using `push_neg at *` or at selected hypotheses and the goal
+using say `push_neg at h h' ⊢`, as usual.
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: Presumably this should be about `push`, not just `push_neg`.

File: Mathlib/Tactic/Push.lean [hunk 13]
```diff
@@ -1,237 +1,301 @@
...
+open Elab in
+/-- Elaborator for the expression passed to `push` -/
+def elabHead (stx : Syntax) : TermElabM Expr := withRef stx do
+  if stx.isIdent then
+    if let some e ← Term.resolveId? stx (withInfo := true) then
+      return e
+  withTheReader Term.Context ({ · with ignoreTCFailures := true }) <|
+  Term.withoutModifyingElabMetaStateWithInfo <|
+  Term.withoutErrToSorry <|
+  Term.elabTerm stx none
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: The `none` here means that providing type ascriptions to the expressions you pass to `push` is useless, right? How about adding support for that?

File: Mathlib/Tactic/Push.lean [hunk 14]
```diff
@@ -1,237 +1,301 @@
...
+  let ctx : Simp.Context ← Simp.mkContext PushSimpConfig
+      (simpTheorems := #[])
+      (congrTheorems := ← getSimpCongrTheorems)
+  let methods := match disch? with
+    | none => { pre := pushStep head }
+    | some disch => { pre := pushStep head, discharge? := disch, wellBehavedDischarge := false }
+  (·.1) <$> Simp.main tgt ctx (methods := methods)
 
+/-- Execute main loop of `push` at the main goal. -/
+def pushNegTarget (head : Head) (discharge? : Option Simp.Discharge) :
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]:
```suggestion
def pushTarget (head : Head) (discharge? : Option Simp.Discharge) :
```

File: Mathlib/Tactic/Push.lean [hunk 15]
```diff
@@ -1,237 +1,301 @@
...
+  let mvarId ← getMainGoal
+  let tgt ← instantiateMVars (← mvarId.getType)
+  let mvarIdNew ← applySimpResultToTarget mvarId tgt (← pushCore head tgt discharge?)
+  if mvarIdNew == mvarId then throwError "push made no progress"
+  replaceMainGoal [mvarIdNew]
 
-/-- Execute main loop of `push_neg` at a local hypothesis. -/
-def pushNegLocalDecl (fvarId : FVarId) : TacticM Unit := withMainContext do
+/-- Execute main loop of `push` at a local hypothesis. -/
+def pushNegLocalDecl (head : Head) (discharge? : Option Simp.Discharge) (fvarId : FVarId) :
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]:
```suggestion
def pushLocalDecl (head : Head) (discharge? : Option Simp.Discharge) (fvarId : FVarId) :
```

File: Mathlib/Tactic/Push.lean [hunk 16]
```diff
@@ -1,237 +1,301 @@
...
+@[tactic push, inherit_doc push]
+def elabPush : Tactic := fun stx => withMainContext do
+  let dischargeWrapper ← Lean.Elab.Tactic.mkDischargeWrapper stx[1]
+  let head ← Head.ofExpr (← elabHead stx[2])
+  let loc := expandOptLocation stx[3]
+  dischargeWrapper.with fun discharge? => do
+    withLocation loc
+      (pushNegLocalDecl head discharge?)
+      (pushNegTarget head discharge?)
+      (fun _ ↦ logInfo "push_neg couldn't find a negation to push")
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: The syntax here is probably wrong; I don't remember how to insert expressions into `MessageData`
```suggestion
      (fun _ ↦ logInfo "`push` couldn't find a {head} to push")
```

File: Mathlib/Tactic/Push.lean [hunk 17]
```diff
@@ -1,237 +1,301 @@
...
 -/
-elab "push_neg" loc:(location)? : tactic =>
-  let loc := (loc.map expandLocation).getD (.targets #[] true)
-  withLocation loc
-    pushNegLocalDecl
-    pushNegTarget
-    (fun _ ↦ logInfo "push_neg couldn't find a negation to push")
-
-end Mathlib.Tactic.PushNeg
+macro (name := pushNeg) tk:"#push_neg " e:term : command => `(command| #conv%$tk push_neg => $e)
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: why not just make this a macro for `push` instead of `push_neg` specificially?

**Review by j-loreaux — COMMENTED** [review]
Please merge master to fix the conflicts.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Tactic/Push.lean (hunk 8 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: Yes, I'm assuming that `Not` is the only head symbol that needs special casing

File: Mathlib/Tactic/Push.lean (hunk 13 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: The term passed to `push` is only there to determine the head constant. But I will refactor this to be the same as in `simp`, where it is allowed to write something like `simp only [· + ·]`.

File: Mathlib/Tactic/Push.lean (hunk 17 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: I've added a `#push` command as well now.

**Comment by JovanGerb** [comment]
@j-loreaux, thank you for your review. I think I have addressed all of you comments.

I have also further refactored the code:
- I defined the `pull` tactic as a converse to the `push` tactic.
- I changed the syntax of the `push` argument. Now instead of `_ ∈ _` and `∀ _, _` it should be `· ∈ ·` and `∀ _, ·`. This is consistent with the `simp [· ∈ ·]` syntax.
- I removed the `pushNeg` simproc because all `push_neg` lemmas are already tagged with `@[simp]` anyways.

**Comment by JovanGerb** [comment]
There is some mysterious CI failure...

File: Mathlib/Tactic/Push.lean [hunk 18]
```diff
@@ -1,238 +1,422 @@
...
+    return Simp.Step.continue
+where
+  mkSimpStep (e : Expr) (pf : Expr) : Simp.Step :=
+    Simp.Step.continue (some { expr := e, proof? := some pf })
+
+/-- The `simp` configuration used in `push`. -/
+def pushSimpConfig : Simp.Config where
+  zeta := false
+  proj := false
+  congrConsts := false -- this is a workaround, and can hopefully be removed
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: A workaround for what problem?

File: Mathlib/Tactic/Push.lean [hunk 19]
```diff
@@ -1,238 +1,422 @@
...
+    let (_, d) ← tacticToDischarge optDischargeSyntax[0][3]
+    return d
+
+/-- Throw an error saying that `push`/`pull` didn't make progress. -/
+def throwNoProgress (tactic : Name) (head : Head) : TacticM Unit :=
+  throwError "tactic `{tactic}` made no progress using `{head.toString}`"
+
+/--
+`push` pushes the given constant away from the root of the expression. For example
+- `push · ∈ ·` rewrites `x ∈ {y} ∪ zᶜ` into `x = y ∨ ¬ x ∈ z`.
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: I worry about this syntax a bit. It would feel more natural to use something like `(· ∈ ·)` to match other usage of `·`, but that's probably also bad since (I think) it doesn't quite mean what it does in other settings.

File: Mathlib/Tactic/Push.lean [hunk 20]
```diff
@@ -1,238 +1,422 @@
...
+- `push (disch := positivity) Real.log` rewrites `log (a * b ^ 2)` into `log a + 2 * log b`.
+- `push ¬·` is the same as `push_neg` or `push Not`, and it rewrites
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: Not `¬ ·`? I would expect a space, even if it's not strictly necessary.

File: Mathlib/Tactic/Push.lean [hunk 21]
```diff
@@ -1,238 +1,422 @@
...
+  `¬∀ ε > 0, ∃ δ > 0, δ < ε` into `∃ ε > 0, ∀ δ > 0, ε ≤ δ`.
+
+In addition to constants, `push` can be used to push `∀` and `fun` binders:
+- `push ∀ _, ·` rewrites `∀ a, p a ∧ q a` into `(∀ a, p a) ∧ (∀ a, q a)`.
+- `push fun _ ↦ ·` rewrites  `fun x => f x + g x` into `f + g`
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: This is very nice. Can it be made into its own simproc? It would be handy do to this from `simp` at times.

File: Mathlib/Tactic/Push.lean [hunk 22]
```diff
@@ -1,238 +1,422 @@
...
 
 /--
-Push negations into the conclusion of a hypothesis.
+Push negations into the conclusion or a hypothesis.
 For instance, a hypothesis `h : ¬ ∀ x, ∃ y, x ≤ y` will be transformed by `push_neg at h` into
 `h : ∃ x, ∀ y, y < x`. Variable names are conserved.
-This tactic pushes negations inside expressions. For instance, given a hypothesis
+
+`push_neg` is a special case of the more general `push` tactic, for the constant `Not`.
+The `push` tactic can be extended using the `@[push]` attribute.
```
Comment (j-loreaux) [inline Mathlib/Tactic/Push.lean]: I think it would be worthwhile to mention that there is some special-casing for `Not` that isn't present for anything else.

File: MathlibTest/push.lean [hunk 23]
```diff
@@ -0,0 +1,71 @@
...
+  guard_target =ₐ p ∧ ∀ n, q ∨ n = 1
+  exact test_sorry
+
+example : p ∨ q ∧ ∃ n : ℕ, n = 1 := by
+  pull ∃ n, ·
+  guard_target =ₐ p ∨ ∃ n, q ∧ n = 1
+  exact test_sorry
+
+-- the following examples still need more tagging to work
+
```
Comment (j-loreaux) [inline MathlibTest/push.lean]: Is there a follow-up PR which does this? Also, many more tests would be appreciated to see the full power of this tactic. Even if those occur in a follow-up that you link to from here for reviewers.

**Review by j-loreaux — COMMENTED** [review]
This is very nice Jovan!

File: MathlibTest/push.lean (hunk 23 above)
Comment (JovanGerb) [reply MathlibTest/push.lean]: in #21769 I did a lot of tagging with `@[push]`, and also golfed some proofs using the `push` tactic.

File: Mathlib/Tactic/Push.lean (hunk 21 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: So, that would be a `pushFun` simproc?

File: Mathlib/Tactic/Push.lean (hunk 20 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: I never know whether to put a space after `¬`. I'll add it in.

Comment (plp127) [reply Mathlib/Tactic/Push.lean]: The pretty printer never puts a space after `¬`

File: Mathlib/Tactic/Push.lean (hunk 18 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: I'll remove it and see if anything breaks

File: Mathlib/Tactic/Push.lean (hunk 20 above)
Comment (plp127) [reply Mathlib/Tactic/Push.lean]: I don't every put a space either.

File: Mathlib/Tactic/Push.lean (hunk 19 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: I could modify the syntax to require brackets around this notation. Either (· ∈ ·) or [· ∈ ·] (which matches simp [· ∈ ·]). But they aren't necessary. If we go for square brackets, we could also allow passing multiple arguments to `push`, but I don't really know how that would be used.

File: MathlibTest/push.lean (hunk 23 above)
Comment (JovanGerb) [reply MathlibTest/push.lean]: Would it be easier to review if more @[push] tags and accompanying tests were added in this PR, or in a follow-up PR?

File: Mathlib/Tactic/Push.lean (hunk 21 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: Note that the current implementation of `push fun _ ↦ ·`/`simp [pushFun]` is very inefficient: it will try every `fun` lemma on every `fun` in the expression.

I hadn't thought of doing this before, but this issue can be fixed by switching to `RefinedDiscrTree`.

**Comment by JovanGerb** [comment]
I've now tagged some lemmas for `push · ∈ ·` and `push fun _ ↦ ·` and added tests for them. I've also added the `pushFun` simproc (should it have a different name? `normFun`?).
- I should switch to `RefinedDiscrTree` so that `pushFun` becomes more efficient.
- In the current implementation, `pull fun _ ↦ ·` doesn't work. But I think that one is less usefull than `push fun _ ↦ ·`.
- Should I add a way to limit the number of rewrites done by `push`? That could be useful e.g. for `push_neg`. Then we should come up with a syntax for this. This can also be a later PR.
- The syntax `push · ∈ ·` looks a bit funny without brackets around the dots. We could still decide to modify it to `push [· ∈ ·]`. And then `push [· ∈ ·, Not]` could for example mean to push membership and negation at the same time. But allowing this is also dangerous because certain combinations of constants to push will cause infinite loops.
- Further constants to be tagged would include `Real.log`, `Real.exp`, `⁻¹`, `Finset.sum`/`Finset.prod`, `tsum`/`tprod`, and extending tagging for `· ∈ ·` from `Set` to `Finset` (and to other containers)

File: MathlibTest/push.lean (hunk 23 above)
Comment (j-loreaux) [reply MathlibTest/push.lean]: A follow-up PR is probably better, but you can link to it from the PR description here so that reviewers know to look for it.

**Comment by JovanGerb** [comment]
Ok, this PR is now ready again.
- I've split out the tagging and tests into a separate PR
- I've fixed `pull fun _ => ·`
- I won't bother with `RefinedDiscrTree` in this PR, because the `DiscrTree` inefficiency is acceptable for now.
- I asked about the `push · ∈ ·` syntax in the Zulip discussion.

**Comment by JovanGerb** [comment]
Following the Zulip conversation, the syntax is now `push _ ∈ _`. The elaborator that enforces that `_` is used instead of an explicit term is a bit hacky, but I think works well enough.

File: MathlibTest/push.lean [hunk 24]
```diff
@@ -0,0 +1,49 @@
...
+  push ∃ n, _
+  guard_target =ₛ p ∨ q ∧ True
+  exact test_sorry
+
+example : (p ∨ q) ∧ (p ∨ r) := by
+  pull _ ∨ _
+  guard_target =ₛ p ∨ q ∧ r
+  exact test_sorry
+
+-- `exists_or` and `forall_and` cannot be used by `pull` when `∃`/`∀` is only on one side
```
Comment (j-loreaux) [inline MathlibTest/push.lean]: doesn't that just mean that we should mark `forall_and_left` and `forall_and_right` with `@[push]`? If not, please explain why in the comment in the source.

**Comment by j-loreaux** [comment]
maintainer delegate

File: Mathlib/Tactic/Push.lean [hunk 25]
```diff
@@ -1,216 +1,342 @@
...
 /-!
-# The `push_neg` tactic
+# The `push`, `push_neg` and `pull` tactics
+
+The `push` tactic pushes a given constant inside expressions: it can be applied to goals as well
+as local hypotheses and also works as a `conv` tactic. `push_neg` is a macro for `push Not`.
 
-The `push_neg` tactic pushes negations inside expressions: it can be applied to goals as well
-as local hypotheses and also works as a `conv` tactic.
+The `pull` tactic does the reverse: it pulls the given constant towards the root of the expression.
```
Comment (adomani) [inline Mathlib/Tactic/Push.lean]:
```suggestion
The `pull` tactic does the reverse: it pulls the given constant towards the head of the expression.
```
I find `head` slightly clearer than `root`, especially since there already is `whnf` setting a precedent for `head`.

File: Mathlib/Tactic/Push.lean [hunk 26]
```diff
@@ -1,216 +1,342 @@
...
+/-- `resolvePushId?` is a version of `resolveId?` that also supports notations like `_ ∈ _`,
+`∃ x, _` and `∑ x, _`. -/
+def resolvePushId? (stx : Term) : TermElabM (Option Expr) := do
+  match ← liftMacroM <| expandMacros stx with
+  | `($f $args*) =>
+    -- Note: we would like to insist that all arguments in the notation are given as underscores,
+    -- but for example `∑ x, _` expands to `Finset.sum Finset.univ fun _ ↦ _`,
+    -- in which `Finset.univ` is not an underscore. So instead
+    -- we only insist that the last argument is an underscore.
+    if isUnderscore args.back! then
```
Comment (adomani) [inline Mathlib/Tactic/Push.lean]: Could there be no underscores?  Even if the final version does not allow it, this may still cause some panic while typing an incomplete syntax right?

Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: I don't think Lean ever produces a degenerate empty `Lean.Parser.Term.app` application. But to be safe, I'll remove the panic.

File: MathlibTest/push.lean (hunk 24 above)
Comment (JovanGerb) [reply MathlibTest/push.lean]: Good point, I have now marked them with `@[push low]`, so that they are tried after `forall_and` by the `pull` tactic. And I've updated the tests so that it breaks without that `low` priority.

File: Mathlib/Tactic/Push/Attr.lean [hunk 27]
```diff
@@ -0,0 +1,120 @@
...
+
+For example:
+```lean
+@[push] theorem not_not (p : Prop) : ¬ ¬p ↔ p
+
+@[push] theorem not_imp (p q : Prop) : ¬(p → q) ↔ p ∧ ¬q
+
+@[push] theorem not_iff (p q : Prop) : ¬(p ↔ q) ↔ (p ∧ ¬q) ∨ (¬p ∧ q)
+```
+
```
Comment (adomani) [inline Mathlib/Tactic/Push/Attr.lean:94]:
````suggestion
The `push` attribute is used to tag lemmas that "push" a constant into an expression (or make it disappear).

For example:
```lean
@[push] theorem not_imp (p q : Prop) : ¬(p → q) ↔ p ∧ ¬q

@[push] theorem not_iff (p q : Prop) : ¬(p ↔ q) ↔ (p ∧ ¬q) ∨ (¬p ∧ q)

@[push] theorem not_not (p : Prop) : ¬ ¬p ↔ p
```
In the `not_not` example, the two `not`s cancelled each other, and we consider this as having `push`ed them out of the expression
````
Or maybe some variation?  Specifically, I would rather have the `not_not` example be last and also have an explanation of why this counts as `push`ing.

When the name was `push_neg`, it was kind of clear what was going on, but with a "generic" `push`, I initially found this confusing.

Comment (JovanGerb) [reply Mathlib/Tactic/Push/Attr.lean:94]: Thanks, I've updated the doc-string

File: Mathlib/Tactic/Push/Attr.lean [hunk 28]
```diff
@@ -0,0 +1,124 @@
...
+def Head.toString : Head → String
+  | .name const => const.toString
+  | .lambda => "fun"
+  | .forall => "Forall"
+
+instance : ToString Head := ⟨Head.toString⟩
+
+/-- Returns the head of an expression. -/
+def Head.ofExpr? (e : Expr) : Option Head :=
+  match e with
```
Comment (adomani) [inline Mathlib/Tactic/Push/Attr.lean]:
```suggestion
def Head.ofExpr? : Expr → Option Head
```
is there a reason to avoid this syntax?

File: Mathlib/Tactic/Push.lean [hunk 29]
```diff
@@ -1,216 +1,348 @@
...
+/--
+The syntax is `#push head e`, where `head` is a constant and `e` is an expression,
+which will print the `push head` form of `e`.
 
-/-- Execute `push_neg` as a conv tactic. -/
-@[tactic pushNegConv] def elabPushNegConv : Tactic := fun _ ↦ withMainContext do
-  Conv.applySimpResult (← pushNegCore (← instantiateMVars (← Conv.getLhs)))
+`#push` understands local variables, so you can use them to introduce parameters.
+-/
+macro (name := pushCommand) tk:"#push " head:ident e:term : command =>
```
Comment (adomani) [inline Mathlib/Tactic/Push.lean]:
```suggestion
macro (name := pushCommand) tk:"#push " head:ident ppSpace e:term : command =>
```

File: Mathlib/Tactic/Push.lean [hunk 30]
```diff
@@ -1,216 +1,348 @@
...
 The syntax is `#push_neg e`, where `e` is an expression,
 which will print the `push_neg` form of `e`.
 
 `#push_neg` understands local variables, so you can use them to introduce parameters.
 -/
-macro (name := pushNeg) tk:"#push_neg " e:term : command => `(command| #conv%$tk push_neg => $e)
+macro (name := pushNegCommand) tk:"#push_neg " e:term : command => `(command| #push%$tk Not $e)
+
+@[inherit_doc pull]
+elab "pull " disch?:(discharger)? head:(colGt term) : conv => withMainContext do
```
Comment (adomani) [inline Mathlib/Tactic/Push.lean]:
```suggestion
elab "pull " disch?:(discharger ppSpace)? head:(colGt term) : conv => withMainContext do
```

File: Mathlib/Tactic/Push.lean [hunk 31]
```diff
@@ -1,216 +1,348 @@
...
+The syntax is `#pull head e`, where `head` is a constant and `e` is an expression,
+which will print the `pull head` form of `e`.
 
-Note that names are conserved by this tactic, contrary to what would happen with `simp`
-using the relevant lemmas. One can also use this tactic at the goal using `push_neg`,
-at every hypothesis and the goal using `push_neg at *` or at selected hypotheses and the goal
-using say `push_neg at h h' ⊢` as usual.
+`#pull` understands local variables, so you can use them to introduce parameters.
+-/
+macro (name := pullCommand) tk:"#pull " head:ident e:term : command =>
```
Comment (adomani) [inline Mathlib/Tactic/Push.lean]:
```suggestion
macro (name := pullCommand) tk:"#pull " head:ident ppSpace e:term : command =>
```

**Review by adomani — COMMENTED** [review]
Sprinkling some `ppSpace`s.

**Comment by adomani** [comment]
I am basically happy with the current shape of the PR, thanks!

I have one question: would something like `push Polynomial.coeff` be able to compute coefficients of polynomials, assuming the "right" lemmas are marked with `push`/`pull`?

File: Mathlib/Tactic/Push/Attr.lean (hunk 28 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push/Attr.lean]: I've used that now

**Comment by JovanGerb** [comment]
Thanks for the reviews!

For the `Polynomial.coeff` example, it should definitelly be possible to turn `coeff (X ^ 2 + 3 * X) 1` into something like `(if 1 = 2 then 1 else 0) + 3 * 1`. The issue is that you will need to do some simplification afterwards, so I think you might be better off just using `simp`.

File: Mathlib/Data/Set/Basic.lean [hunk 32]
```diff
@@ -485,21 +485,35 @@ instance uniqueEmpty [IsEmpty α] : Unique (Set α) where
   uniq := eq_empty_of_isEmpty
 
 /-- See also `Set.nonempty_iff_ne_empty`. -/
-theorem not_nonempty_iff_eq_empty {s : Set α} : ¬s.Nonempty ↔ s = ∅ := by
+@[push]
+theorem not_nonempty_iff_eq_empty : ¬s.Nonempty ↔ s = ∅ := by
   simp only [Set.Nonempty, not_exists, eq_empty_iff_forall_notMem]
 
 /-- See also `Set.not_nonempty_iff_eq_empty`. -/
```
Comment (adomani) [inline Mathlib/Data/Set/Basic.lean:492]:
```suggestion
/-- See also `Set.not_nonempty_iff_eq_empty` and `nonempty_iff_empty_ne`. -/
```
How about mentioning also `nonempty_iff_empty_ne` in the doc-string?

You may say that this is out of scope, just like GitHub will probably not allow you to accept this suggestion!

**Comment by adomani** [comment]
I agree that `simp` could also achieve this, but I was more wondering whether `pushCoeff` could be a part of the `compute_degree` implementation, combined with some further `norm_num`/restricted `simp` call.  Anyway, just an idea!

**Comment by adomani** [comment]
Ok, I think that this is probably the last extension that I will ask about `push`: would you mind adding tests for the `#push ...`, `#pull ...` and `#push_discr_tree ...` commands?

File: Mathlib/Data/Set/Basic.lean (hunk 32 above)
Comment (JovanGerb) [reply Mathlib/Data/Set/Basic.lean:492]: I would rather just remove these doc-string. I think they are redundant.

**Comment by JovanGerb** [comment]
I didn't put the command `#push_discr_tree Not` into the test file, because I think this will be annoying to update when tagging more `push_neg` lemmas. However, looking at the output made me realize that some `@[push]` tags that I added weren't supposed to be there, so I've removed them now.

**Comment by JovanGerb** [comment]
For a tactic that computes `Polynomial.coeff`, if you want to restrict your `simp` to a `simp only`, then you could indeed define a `pushCoeff` simproc to be an argument to the `simp only`. We can make a `pushFoo` simproc for any constant `Foo` where that is deemed useful, similar to `pushNeg` and `pushFun`.

File: Mathlib/Data/Set/Basic.lean (hunk 32 above)
Comment (adomani) [reply Mathlib/Data/Set/Basic.lean:492]: Ok, let's leave this as is.  In general, rather than removing doc-strings, I would prefer to improve them, but leaving them unchanged is always an easy option!

File: Mathlib/Tactic/Push.lean [hunk 33]
```diff
@@ -1,216 +1,350 @@
...
-syntax (name := pushNegConv) "push_neg" : conv
+elab (name := pull) "pull" disch?:(discharger)? head:(ppSpace colGt term) loc:(location)? :
+    tactic => do
+  let disch? ← disch?.mapM elabDischarger
+  let head ← elabHead head
+  let loc := (loc.map expandLocation).getD (.targets #[] true)
+  transformAtLocation (pullCore head · disch?) "pull" loc (failIfUnchanged := true) false
+
+/-- A simproc variant of `push fun _ ↦ _`, to be used as `simp [↓pushFun]`. -/
+simproc_decl _root_.pushFun (fun _ ↦ ?_) := pushStep .lambda
```
Comment (adomani) [inline Mathlib/Tactic/Push.lean:272]: Could you also add tests for the two `simproc`s, please?  :upside_down_face:

**Review by adomani — COMMENTED** [review]
I like the new tests, thanks!  I also have a couple more that I just noticed...

I do not have a feeling for how much the `#push_discr_tree` test will cause issues.  If it turns out to be quite fussy, there is always the option of commenting it out, while we think of an alternative.

Thank you for your patience through the various reviews!

bors d+

**Comment by JovanGerb** [comment]
I forgot about the fact that I removed the `pushNeg` simproc, because the relevant lemmas tend to already be tagged with `simp`, so the simproc doesn't really add to what `simp` can already do. Do you think I should still add it?

For the `pushFun` simproc I have a test in the follow-up PR.

**Comment by adomani** [comment]
Ok, let's remove the `pushNeg` simproc, as adding it later is straightforward.

Thanks!

**Comment by bryangingechen** [comment]
I think this only failed due to a runner having a bad setup (which should be fixed now).
bors r+
